US05391559
0.01 mol of NaOH in solution in a minimum of water is added to a solution of 2.4 g of (4-(cycloheptylamino)pyrid-3-yl)sulphonamide in 80 cm3 of a mixture of water and acetone (1/1). Stirring is effected with a bar magnet and 2.1 g of cycloheptyl isocyanate are added. Stirring is continued while monitoring the progress of the reaction by thin layer chromatography. Evaporation is carried out in vacuo and the residue is taken up in 100 cm3 of 0.2N NaOH. After filtering, the pH of the solution is adjusted to 6.5 and the resulting precipitate is suction-filtered and then dried. The N-{[4-(cycloheptylamino)pyrid-3-yl]sulphonyl}-N'-(cycloheptyl)urea so obtained may optionally be recrystallised from an aqueous alcoholic solution.

reactant | NaOH | 0.01 mol | [OH-].[Na+]
reactant | water | O | H2O
reactant | (4-(cycloheptylamino)pyrid-3-yl)sulphonamide | 2.4 g | C1(CCCCCC1)NC1=C(C=NC=C1)S(=O)(=O)N | C12H19N3O2S
reactant | cycloheptyl isocyanate | 2.1 g | C1(CCCCCC1)N=C=O | C8H13NO
solvent | acetone | CC(=O)C | C3H6O
product | N-{[4-(cycloheptylamino)pyrid-3-yl]sulphonyl}-N'-(cycloheptyl)urea | C1(CCCCCC1)NC1=C(C=NC=C1)S(=O)(=O)NC(=O)NC1CCCCCC1 | C20H32N4O3S
